US04101582
Preparation of 2'-methyl-5'-nitro-acetophenone
To 120 ml of concentrated sulfuric acid is added 53.6 g of o-methylacetophenone, while cooling at -10°. To this cold, stirred solution is added a mixture of 32 ml of 70% nitric acid and 48 ml of concentrated sulfuric acid. The reaction solution is stirred for 21/2 hours between -9° and 0° and then poured over 800 g of ice. The mixture is extracted with ether and the organic phase washed with water, saturated Na2CO3 solutions, water and finally brine. The ether solution is dried over MgSO4 and evaporated to dryness to give 56.2 g of a pale yellow oil. The oil is crystallized from 95% ethanol to give 25.4 g of product, mp about 50° C. Recrystallization from hexane afforded product mp 53°-55° C.

reactant | o-methylacetophenone | 53.6 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | nitric acid | 32 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 48 ml | S(O)(O)(=O)=O | H2O4S
product | 2'-methyl-5'-nitro-acetophenone | 56.2 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C9H9NO3
